US07094789B2
(Step A) Synthesis of N-(tert-butoxycarbonyl)-N′-(5-isoquinolyl)-pentamethylenediamine (Intermediate 31)
Under nitrogen atmosphere, a suspension of 5-bromoisoquinoline (245 mg), tris(dibenzylideneacetone)palladium(0) (56 mg), 2-(di-tert-butylphosphino)biphenyl (69 mg), N-(5-aminopentyl)carbamic acid tert-butyl ester (282 mg, Tokyo Kasei Kogyo) and sodium tert-butoxide (160 mg) in toluene was stirred with heating at 70° C. for 4.5 hours. The reaction mixture was cooled to room temperature and purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1) to obtain the title compound (327 mg).

reactant | 5-bromoisoquinoline | 245 mg | BrC1=C2C=CN=CC2=CC=C1 | C9H6BrN
reactant | 2-(di-tert-butylphosphino)biphenyl | 69 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | N-(5-aminopentyl)carbamic acid tert-butyl ester | 282 mg | C(C)(C)(C)OC(NCCCCCN)=O | C10H22N2O2
reactant | sodium tert-butoxide | 160 mg | CC(C)([O-])C.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(tert-butoxycarbonyl)-N′-(5-isoquinolyl)-pentamethylenediamine | 327 mg | C(C)(C)(C)OC(=O)NCCCCCNC1=C2C=CN=CC2=CC=C1 | C19H27N3O2
